US08729271B2
To a solution of tert-butyl N-cyclobutyl-N-[(1-methyl-1H-imidazol-4-yl)carbonyl]glycinate (200 mg) in ethyl acetate (4 mL) was added 4N hydrochloric acid/ethyl acetate solution (4 mL), and the mixture was stirred at room temperature overnight. The solvent was distilled off under reduced pressure to afford N-cyclobutyl-N-[(1-methyl-1H-imidazol-4-yl)carbonyl]glycine hydrochloride (150 mg).

reactant | tert-butyl N-cyclobutyl-N-[(1-methyl-1H-imidazol-4-yl)carbonyl]glycinate | 200 mg | C1(CCC1)N(CC(=O)OC(C)(C)C)C(=O)C=1N=CN(C1)C | C15H23N3O3
reactant | hydrochloric acid ethyl acetate | 4N, 4 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | N-cyclobutyl-N-[(1-methyl-1H-imidazol-4-yl)carbonyl]glycine hydrochloride | 150 mg | Cl.C1(CCC1)N(CC(=O)O)C(=O)C=1N=CN(C1)C | InChI=1S/C11H15N3O3.ClH/c1-13-5-9(12-7-13)11(17)14(6-10(15)16)8-3-2-4-8;/h5,7-8H,2-4,6H2,1H3,(H,15,16);1H
